US06878721B1
6,7,8,9-Tetrahydro-5H-benzocyclohepten-7-ylamine
Benzyl-(6,7,8,9-tetrahydro-5H-benzocyclohepten-7-yl)-amine (2.80 g) is dissolved in methanol (100 mL) and the compound is deprotected by adding a catalytic amount of 10% palladium on charcoal and placing the solution under an atmosphere of hydrogen. The reaction is shown to be complete by TLC after 24 hours. The catalyst is filtered off and the solvent is removed in vacuo. The product is not purified further. TLC (silica, dichloromethane/methanol 25:1 Rf=0.15).

reactant | Benzyl-(6,7,8,9-tetrahydro-5H-benzocyclohepten-7-yl)-amine | 2.80 g | C(C1=CC=CC=C1)NC1CCC2=C(CC1)C=CC=C2 | C18H21N
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 6,7,8,9-Tetrahydro-5H-benzocyclohepten-7-ylamine | C1=CC=CC2=C1CCC(CC2)N | C11H15N
